US06599902B2
2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2.0 g, 13.06 mmol) reacted with 2-[1,2,3]triazol-1-yl-ethylamine (1.76 g, 15.67 mmol) to give 2.55 g (79%) of 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide.

reactant | 2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid | 13.06 mmol, 2.0 g | C(=O)C=1NC(=CC1C(=O)O)C | C7H7NO3
reactant | 2-[1,2,3]triazol-1-yl-ethylamine | 15.67 mmol, 1.76 g | N1(N=NC=C1)CCN | C4H8N4
product | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide | 2.55 g, 79% | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1)C)C=O | C11H13N5O2
